US07456200B2
Methanesulfonic acid 1-[5-(3-Chloro-phenyl)-isoxazol-3-yl]-ethyl ester
In a screw cap vial equipped with stir bar was added 1-[5-(3-chloro-phenyl)-isoxazol-3-yl]-ethanol (110 mg, 0.49 mmol), dichloromethane (3 ml) and triethylamine (0.34 ml, 2.46 mmol). Cooled the mixture down to 0° C. and to it added methane sulfonyl chloride (0.08 ml, 0.98 mmol). Left the reaction mixture stirring at room temperature for 30 min. Reaction was quenched with saturated sodium bicarbonate (aqueous, 40 ml) and extracted with dichloromethane (3×30 ml). Combined organic phase was washed with brine (40 ml), dried (sodium sulfate), filtered and concentrated, in-vacuo to isolate the desired compound as brown oil.

reactant | 1-[5-(3-chloro-phenyl)-isoxazol-3-yl]-ethanol | 0.49 mmol, 110 mg | ClC=1C=C(C=CC1)C1=CC(=NO1)C(C)O | C11H10ClNO2
reactant | triethylamine | 2.46 mmol, 0.34 ml | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 0.98 mmol, 0.08 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | Methanesulfonic acid 1-[5-(3-Chloro-phenyl)-isoxazol-3-yl]-ethyl ester | ClC=1C=C(C=CC1)C1=CC(=NO1)C(C)OS(=O)(=O)C | C12H12ClNO4S
